US07902373B2
trans-6-(3-Fluorophenyl)-N-[4-hydroxypyrrolidin-3-yl]nicotinamide
To a solution of trans-tert-butyl 3-({[6-(3-fluorophenyl)pyridin-3-yl]carbonyl}amino)-4-hydroxypyrrolidine-1-carboxylate (500 mg, 1.24 mmol) in dioxane was added 4N HCl in dioxane (10 mL). The reaction was stirred at room temperature for ˜4 hrs and then diluted with ether to give a white solid, which was filtered and collected to give the desired product as the hydrochloride salt, trans-6-(3-fluorophenyl)-N-[4-hydroxypyrrolidin-3-yl]nicotinamide (390 mg, 92% ). LC/MS (M+H)=301.9 observed, 302.13 expected.

reactant | trans-tert-butyl 3-({[6-(3-fluorophenyl)pyridin-3-yl]carbonyl}amino)-4-hydroxypyrrolidine-1-carboxylate | 1.24 mmol, 500 mg | FC=1C=C(C=CC1)C1=CC=C(C=N1)C(=O)N[C@@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C | C21H24FN3O4
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | trans-6-(3-fluorophenyl)-N-[4-hydroxypyrrolidin-3-yl]nicotinamide | 390 mg, 92% | FC=1C=C(C=CC1)C1=NC=C(C(=O)N[C@@H]2CNC[C@H]2O)C=C1 | C16H16FN3O2
